US07901793B2
Synthesis of 6-bromo-2,3-di-p-tolyl-benzo[b]thiophene (Intermediate B)
2.5 g (1 eq, 7.9 mmol) of 2,3-di-p-tolyl-benzo[b]thiophene and 14 g (10 eq, 79 mmol) of NBS were dissolved in 200 ml of THF in a 500 ml-round-bottomed flask and stirred for 6 hours. 50 ml of water was added to the solution to terminate the reaction, and the organic phase was extracted using brine and methylene chloride. The extracted organic phase was dried using anhydrous magnesium sulfate and filtered to remove the solvent. A resulting solid was recrystallized using methylene chloride and hexane, dissolved in a small amount of THF, and separated using column chromatography (silica and hexane) to obtain 2.5 g (71%) of a yellow solid.

reactant | 2,3-di-p-tolyl-benzo[b]thiophene | 7.9 mmol, 2.5 g, 1 eq | C1(=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C)C | C22H18S
reactant | NBS | 79 mmol, 14 g, 10 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 50 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 6-bromo-2,3-di-p-tolyl-benzo[b]thiophene | 2.5 g, 71% | BrC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)C1 | C22H17BrS
